US04760163
using ethyl 2-chloro-5-(1,2,4,5,6,7-hexahydro-2,4-dioxo-3H-cyclopenta[d]pyrimidin-3-yl)-benzoate and 3-bromo-1-propyne there is obtained ethyl 2-chloro-5-{1,2,4,5,6,7-hexahydro-1-(2-propynyl)-2,4-dioxo-3H-cyclopenta[d]pyrimidin-3-yl}-benzoate, m.p. 121°-123° C.,

reactant | ethyl 2-chloro-5-(1,2,4,5,6,7-hexahydro-2,4-dioxo-3H-cyclopenta[d]pyrimidin-3-yl)-benzoate | ClC1=C(C(=O)OCC)C=C(C=C1)N1C(NC2=C(C1=O)CCC2)=O | C16H15ClN2O4
reactant | 3-bromo-1-propyne | BrCC#C | C3H3Br
product | ethyl 2-chloro-5-{1,2,4,5,6,7-hexahydro-1-(2-propynyl)-2,4-dioxo-3H-cyclopenta[d]pyrimidin-3-yl}-benzoate | ClC1=C(C(=O)OCC)C=C(C=C1)N1C(N(C2=C(C1=O)CCC2)CC#C)=O | C19H17ClN2O4
